US04957935
Preparation of 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-(1-pyrrolyl)-3-(1-trifluoromethylethyl)-1H-1,2,4-triazole (Compound No. 17)
3.9 g (0.01 mol) of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-(1-trifluoromethylethyl)-1H-1,2,4-triazole and 1.3 g (0.01 mol) of 2,5-dimethoxytetrahydrofuran were dissolved in 15 ml of acetic acid, and the solution was refluxed under stirring for one hour. After cooling, the reaction solution was poured into water and neutralized with sodium hydrogencarbonate. Then, precipitates were extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography to obtain 3 g (yield: 68%) of the desired compound having a melting point of from 73.5° to 75° C. as white powder.

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-(1-trifluoromethylethyl)-1H-1,2,4-triazole | 0.01 mol, 3.9 g | NC1=NC(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(C)C(F)(F)F | C12H8Cl2F6N4
reactant | 2,5-dimethoxytetrahydrofuran | 0.01 mol, 1.3 g | COC1OC(CC1)OC | C6H12O3
reactant | water | O | H2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-(1-pyrrolyl)-3-(1-trifluoromethylethyl)-1H-1,2,4-triazole | 3 g, yield: 68% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(N=C1N1C=CC=C1)C(C)C(F)(F)F | C16H10Cl2F6N4
